US08937078B2
1-[6-amino-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid
The titled compound was prepared in a manner analogous to Example 171, substituting 3-cyanobenzaldehyde for benzaldehyde in step A. Step C yielded a mixture of 1-[6-(3-cyano-benzylamino)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, 1-[6-(3-carbamoyl-benzylamino)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, and the titled compound. The mixture was separated by reverse-phase HPLC; the titled compound was recovered as the trifluoroacetate salt.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-[6-(3-cyano-benzylamino)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | C(#N)C=1C=C(CNC=2C=C3C(NC(=NC3=CC2)N2N=CC(=C2)C(=O)O)=O)C=CC1 | C20H14N6O3
reactant | 1-[6-(3-carbamoyl-benzylamino)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | C(N)(=O)C=1C=C(CNC=2C=C3C(NC(=NC3=CC2)N2N=CC(=C2)C(=O)O)=O)C=CC1 | C20H16N6O4
product | 1-[6-amino-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | NC=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)O)=O | C12H9N5O3
